US06762201B1
d) {4-amino-3-[(methylamino)methyl]phenyl}-N-methyl-N-[(1-methylindol-2-yl)methyl]carboxamide
To a solution of N-[(2-nitro-5-{N-methyl-N-[(1-methylindol-2-yl)methyl]carbamoyl}phenyl)methyl]-N-methyl(phenylmethoxy)carboxamide (6.1 g, 12.2 mmole) in CH3OH (50 mL) contained in a Parr hydrogenation flask was added a 0.75 g of 10% Pd/C. The contents were shaken on a Parr shaker under H2 (50 psi) for 6 hours. The suspension was filtered through celite and concentrated under vacuum. Purification on silica [CHCl3/CH3OH (containing 5% NH4OH), 9:1] afforded the title compound (3.40 g, 83%) as a viscous yellow oil: MS (ES) m/e 337 (M+H)+.

reactant | N-[(2-nitro-5-{N-methyl-N-[(1-methylindol-2-yl)methyl]carbamoyl}phenyl)methyl]-N-methyl(phenylmethoxy)carboxamide | 12.2 mmole, 6.1 g | [N+](=O)([O-])C1=C(C=C(C=C1)C(N(CC=1N(C2=CC=CC=C2C1)C)C)=O)CN(C(=O)OCC1=CC=CC=C1)C | C28H28N4O5
solvent | CH3OH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.75 g | [Pd] | Pd
product | {4-amino-3-[(methylamino)methyl]phenyl}-N-methyl-N-[(1-methylindol-2-yl)methyl]carboxamide | 3.40 g, 83% | NC1=C(C=C(C=C1)C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C)CNC | C20H24N4O
